US08937176B2
6.02.14.02 2-Benzyloxy-N-ethyl-N-[2-(4-fluoro-3-methyl-phenyl)-2-oxo-ethyl]-acetamide
2.9 g benzyloxy-acetyl chloride was added to 3.7 g 2-ethylamino-1-(4-fluoro-3-methyl-phenyl)-ethanone hydrochloride and 5 mL triethylamine in 40 mL dichlormethane. The reaction was stirred 3 h at RT. The reaction was diluted with dichlormethane, washed with water, 1 mol/L aqueous hydrochloride acid and with 5% aqueous potassium carbonate solution. The organic layer was dried and evaporated to yield 5.2 g of the desired product. Rt: 0.91 min (method J), (M+H)+: 344

reactant | benzyloxy-acetyl chloride | 2.9 g | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | 2-ethylamino-1-(4-fluoro-3-methyl-phenyl)-ethanone hydrochloride | 3.7 g | Cl.C(C)NCC(=O)C1=CC(=C(C=C1)F)C
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | dichlormethane | 40 mL | ClCCl | CH2Cl2
product | 2-Benzyloxy-N-ethyl-N-[2-(4-fluoro-3-methyl-phenyl)-2-oxo-ethyl]-acetamide | 5.2 g | C(C1=CC=CC=C1)OCC(=O)N(CC(=O)C1=CC(=C(C=C1)F)C)CC | C20H22FNO3
